US04011323
A mixture of 12.4 g. of 6-dimethylamino-quinazolin-4(3H)-one and 50 ml. of phosphorus oxychloride is refluxed under nitrogen for 10 minutes, cooled to room temperature, 150 ml. of ether added, the crystals recovered by filtering, washed with ether and dried. The solids are added to 500 ml. of ice-water, concentrated ammonia is added to neutralize the solution which is extracted with 1.0 liter of chloroform. The chloroform extract is dried and filtered through 300 ml. of silica gel using chloroform as an eluant. Evaporation of the eluant yields 6-dimethylamino-4-chloroquinazoline, m.p. 126°-127.5° C.

reactant | 6-dimethylamino-quinazolin-4(3H)-one | CN(C=1C=C2C(NC=NC2=CC1)=O)C | C10H11N3O
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | ether | CCOCC | C4H10O
product | 6-dimethylamino-4-chloroquinazoline | CN(C=1C=C2C(=NC=NC2=CC1)Cl)C | C10H10ClN3
